US08048909B2
Under an argon atmosphere, 5-phenyl-1H-pyrrole-3-carbaldehyde (171 mg) was dissolved in tetrahydrofuran (10 mL), sodium hydride (60% in oil, 60 mg) was added, and the mixture was stirred at room temperature for 15 min. 15-Crown-5 (0.30 mL) was added and the mixture was further stirred at the same temperature for 15 min. 4-[(Trifluoromethyl)sulfonyl]benzenesulfonyl chloride (432 mg) was added and the reaction mixture was stirred at room temperature for 30 min. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→4:1) to give 5-phenyl-1-({4-[(trifluoromethyl)sulfonyl]phenyl}sulfonyl)-1H-pyrrole-3-carbaldehyde (191 mg) as an orange solid. The obtained 5-phenyl-1-({4-[(trifluoromethyl)sulfonyl]phenyl}sulfonyl)-1H-pyrrole-3-carbaldehyde (191 mg) was subjected to a similar operation as in the synthesis of Example 179 to give the title compound as a solid (yield 86 mg, 40%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 171 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 15-Crown-5 | 0.30 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 4-[(Trifluoromethyl)sulfonyl]benzenesulfonyl chloride | 432 mg | FC(S(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O4S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 5-phenyl-1-({4-[(trifluoromethyl)sulfonyl]phenyl}sulfonyl)-1H-pyrrole-3-carbaldehyde | 191 mg | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)C=O | C18H12F3NO5S2
